US05350748
To a 0° C. solution of 3-chloro-5-methoxybenzo[b]thiophene-2-carbonyl chloride (500 mg, 1.9 mmol) in 20 mL of THF is added methyl p-aminobenzoate (318 mg, 2.1 mmol) followed by triethylamine (293 μL, 2.1 mmol). The reaction mixture is allowed to warm to room temperature and stirring is continued overnight. The mixture is partitioned between ethyl acetate and 1N HCl, then washed with 1N NaOH, saturated NaHCO3, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate:hexane provides 225 mg of methyl 4-[[[3-chloro-5-methoxybenzo[b]thien-2yl]carbonyl]amino]benzoate; mp=205°-206° C.

reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carbonyl chloride | 1.9 mmol, 500 mg | ClC=1C2=C(SC1C(=O)Cl)C=CC(=C2)OC | C10H6Cl2O2S
reactant | methyl p-aminobenzoate | 2.1 mmol, 318 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | triethylamine | 2.1 mmol, 293 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 4-[[[3-chloro-5-methoxybenzo[b]thien-2yl]carbonyl]amino]benzoate | 225 mg | ClC=1C2=C(SC1C(=O)NC1=CC=C(C(=O)OC)C=C1)C=CC(=C2)OC | C18H14ClNO4S
